US05633248
1) 3,4-Dihydro-6-methoxy-1'-trifluoracetylspiro[naphthalene-2(1H),2'-piperidine]
To a solution of 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine] (5.0 g) in dichloromethane (100 ml) was added pyridine (4.5 ml) and trifluoroacetic anhydride (5.2 ml) and the solution was stirred at 0° C. for 1 hour and at ambient temperature for 2 hours. The water was added to the reaction mixture and extracted with dichloromethane. The dichloromethane phase was washed with dilute hydrochloric acid and dried with anhydrous sodium sulfate, filtered, and evaporated. The residue was recrystallized from hexane to give which crystals (5.2 g).

reactant | 3,4-dihydro-6-methoxyspiro[naphthalene-2(1H),2'-piperidine] | 5.0 g | COC=1C=C2CCC3(NCCCC3)CC2=CC1 | C15H21NO
reactant | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 5.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,4-Dihydro-6-methoxy-1'-trifluoracetylspiro[naphthalene-2(1H),2'-piperidine] | 5.2 g | COC=1C=C2CCC3(N(CCCC3)C(C(F)(F)F)=O)CC2=CC1 | C17H20F3NO2
